US07163937B2
A solution of 5-bromofuran-2-carboxylic acid (381 mg, 2 mmol), phenylboronic acid (488 mg, 4 mmol) in DMF (3 ml) was place in a microwave reaction tube and treated with a 2 M K3PO4(aq) (2 ml, 4 mmol). The solution was purged with nitrogen for 10 minutes before adding Pd(PPh3)4 (1.5 mg) catalyst. The mixture was again purged with nitrogen for 5 minutes before the reaction tube was sealed. The mixture was heated in a microwave oven at 150° C. for 30 minutes. The reaction mixture was filtered and the filtrate poured into 1N HCl (100 ml) with stirring. The precipitate was filtered and air-dried to give 209 mg of 5-phenylfuran-2-carboxylic acid. MS (ES−)found: (M−H)−=187.13.

reactant | 5-bromofuran-2-carboxylic acid | 2 mmol, 381 mg | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | phenylboronic acid | 4 mmol, 488 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K3PO4 | 4 mmol, 2 M, 2 ml | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5-phenylfuran-2-carboxylic acid | 209 mg | C1(=CC=CC=C1)C1=CC=C(O1)C(=O)O | C11H8O3
